US04304770
Conc. hydrochloric acid (0.33 g) was added to a solution of 7-[2-allyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.30 g) in methanol (13 ml) and the mixture was stirred for 4.5 hours at ambient temperature. The solvent was distilled off under reduced pressure and the residue was dissolved in a saturated aqueous solution of sodium bicarbonate (25 ml). The aqueous solution was washed with ethyl acetate (25 ml) and adjusted to pH 2.0 with 10% hydrochloric acid. Precipitates were collected by filtration, washed with water and dried to give colorless powder of 7-[2-allyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.95 g).

reactant | hydrochloric acid | 0.33 g | Cl | ClH
reactant | 7-[2-allyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.30 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C21H21N9O6S3
solvent | methanol | 13 ml | CO | CH4O
product | 7-[2-allyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.95 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)N | C20H21N9O5S3
